US09233104B2
To a solution of 2-nitro-6-(pyridin-4-yl)aniline (XCIV) (3 g, 14 mmol, 1 eq) in EtOAc (350 mL) was added Pd/C (0.3 g) and the mixture was stirred at room temperature under 1 atm of H2 atmosphere overnight, the mixture was filtered and concentrated in vacuo to give the product 3-(pyridin-4-yl)benzene-1,2-diamine (XCV) (2.4 g, 13.0 mmol, 93% yield) as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ ppm 4.35 (s, 2H), 4.75 (s, 2H), 6.45 (dd, J=7.6 Hz, J=1 Hz, 1H), 6.58 (t, J=7.6 Hz, 1H), 6.67 (d, J=6.8 Hz, 1H), 7.47 (d, J=6 Hz, 2H), 8.65 (d, J=6 Hz, 2H); ESIMS found for C11H11N3 m/z 186 (M+H).

reactant | 2-nitro-6-(pyridin-4-yl)aniline | 14 mmol, 3 g, 1 eq | [N+](=O)([O-])C1=C(N)C(=CC=C1)C1=CC=NC=C1 | C11H9N3O2
solvent | EtOAc | 350 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 3-(pyridin-4-yl)benzene-1,2-diamine | 13.0 mmol, 2.4 g, 93% yield | N1=CC=C(C=C1)C1=C(C(=CC=C1)N)N | C11H11N3
